datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(CC1CCCCC1)[NH:10]C.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CC(CC1CCCCC1)[NH+:10](C)[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"C=C(C)C(=O)OCC[NH:10]CC(C)C.CC(C)N/C=[NH+]/c1ccc(-c2c[nH]c[n+:21]2[H:20])cc1>>C=C(C)C(=O)OCC[NH+:10](CC(C)C)[H:20].CC(C)N/C=[NH+]/c1ccc(-c2c[nH]c[n:21]2)cc1 10=20;20,21=21",
"CC(C)C[NH:10]C(C)C.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CC(C)C[NH+:10](C(C)C)[H:20].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CCC1(CC)SC(=O)[N-:10]C1=O.COc1ccc([N:21](C(=S)c2cccc(Br)c2)[H:20])cc1>>CCC1(CC)SC(=O)[N:10]([H:20])C1=O.COc1ccc([N-:21]C(=S)c2cccc(Br)c2)cc1 10=20;20,21=21",
"S=C(Nc1ccccc1)[N-:10]C(=S)c1ccccc1.c1ccc(CSc2cc[n+:21]([H:20])cc2)cc1>>S=C(Nc1ccccc1)[N:10](C(=S)c1ccccc1)[H:20].c1ccc(CSc2cc[n:21]cc2)cc1 10=20;20,21=21",
"CC(=O)[S-:10].NC(=O)c1cc[n+](COC[n+]2ccccc2/C=N/[O:21][H:20])cc1>>CC(=O)[S:10][H:20].NC(=O)c1cc[n+](COC[n+]2ccccc2/C=N/[O-:21])cc1 10=20;20,21=21",
"OC[O-:10].[H:20][PH3+:21]>>OC[O:10][H:20].[PH3:21] 10=20;20,21=21",
"C[n+]1c2ccccc2nc2ccc([O-:10])cc21.[NH3+]Cc1ccc[n+:21]([H:20])c1>>C[n+]1c2ccccc2nc2ccc([O:10][H:20])cc21.[NH3+]Cc1ccc[n:21]c1 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1ccc(CCCC[NH2:10])cc1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1ccc(CCCC[NH2+:10][H:20])cc1 10=20;20,21=21",
"C(=C/c1cc[n+:21]([H:20])cc1)\c1ccncc1.c1ccc2c(c1)ncc1ccc([O-:10])cc12>>C(=C/c1cc[n:21]cc1)\c1ccncc1.c1ccc2c(c1)ncc1ccc([O:10][H:20])cc12 10=20;20,21=21",
"C1CCC([NH+:21](C2CCCCO2)[H:20])OC1.Oc1cccc2c1-c1ccc([NH2:10])cc1C2>>C1CCC([NH:21]C2CCCCO2)OC1.Oc1cccc2c1-c1ccc([NH2+:10][H:20])cc1C2 10=20;20,21=21",
"CC(=O)N[O-:10].c1c[nH]c(P(c2[nH]cc[nH+]2)c2[nH]cc[n+:21]2[H:20])n1>>CC(=O)N[O:10][H:20].c1c[nH]c(P(c2[nH]cc[nH+]2)c2[nH]cc[n:21]2)n1 10=20;20,21=21",
"Cc1ccc(S(=O)(=O)N2CC[NH:10]CC2)cc1.O=P([O-])([O-])C([NH2+]Cc1ccncc1)c1ccccc1[O:21][H:20]>>Cc1ccc(S(=O)(=O)N2CC[NH+:10]([H:20])CC2)cc1.O=P([O-])([O-])C([NH2+]Cc1ccncc1)c1ccccc1[O-:21] 10=20;20,21=21",
"C[N+:21]1([H:20])C[C@H](C(=O)[O-])C[C@@H]2c3cccc4[nH]cc(c34)C[C@@H]21.c1ccc([P:10](c2ccccc2)c2ccccc2)cc1>>C[N:21]1C[C@H](C(=O)[O-])C[C@@H]2c3cccc4[nH]cc(c34)C[C@@H]21.c1ccc([P+:10](c2ccccc2)(c2ccccc2)[H:20])cc1 10=20;20,21=21",
"CCC(O)C[N:10](CC)CC(O)CC.C[NH+](C)Cc1cc(-c2ccccc2)cc(C[NH+](C)C)c1[O:21][H:20]>>CCC(O)C[N+:10](CC)(CC(O)CC)[H:20].C[NH+](C)Cc1cc(-c2ccccc2)cc(C[NH+](C)C)c1[O-:21] 10=20;20,21=21",
"CCCCCCCCCCCCCCCCCC[NH+:21](CCCCCCCCCCCCCCCCCC)[H:20].OCCCNc1nc(NCCCO)[n:10]c(NCCCO)n1>>CCCCCCCCCCCCCCCCCC[NH:21]CCCCCCCCCCCCCCCCCC.OCCCNc1nc(NCCCO)[n+:10]([H:20])c(NCCCO)n1 10=20;20,21=21",
"Cc1ccc(C(C)C)cc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1ccc(C(C)C)cc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C1C[NH:10]CC[NH2+]1.Clc1ccccc1[O:21][H:20]>>C1C[NH+:10]([H:20])CC[NH2+]1.Clc1ccccc1[O-:21] 10=20;20,21=21",
"CC(Cc1ccccc1)[NH:10]CCC#N.[NH3+]c1ccc(-c2ccc([NH2+:21][H:20])cc2)cc1>>CC(Cc1ccccc1)[NH+:10](CCC#N)[H:20].[NH3+]c1ccc(-c2ccc([NH2:21])cc2)cc1 10=20;20,21=21",
"Cc1cc(N)nc[n:10]1.Cc1cc[n+:21]([H:20])c2ccccc12>>Cc1cc(N)nc[n+:10]1[H:20].Cc1cc[n:21]c2ccccc12 10=20;20,21=21",
"Cc1ccc2c(c1)[NH:10]CC[NH2+]2.O=C1c2ccccc2S(=O)(=O)[N:21]1[H:20]>>Cc1ccc2c(c1)[NH+:10]([H:20])CC[NH2+]2.O=C1c2ccccc2S(=O)(=O)[N-:21]1 10=20;20,21=21",
"CCCCNc1ncnc2c1cn[n-:10]2.O=C1c2nc[n+:21]([H:20])c([O-])c2C(=O)c2nc[nH]c21>>CCCCNc1ncnc2c1cn[n:10]2[H:20].O=C1c2nc[n:21]c([O-])c2C(=O)c2nc[nH]c21 10=20;20,21=21",
"C[NH2+]CC[N:10](C)CC[NH2+]C.Oc1ccccc1-c1nnn[n:21]1[H:20]>>C[NH2+]CC[N+:10](C)(CC[NH2+]C)[H:20].Oc1ccccc1-c1nnn[n-:21]1 10=20;20,21=21",
"Cc1n(C)c2c(O)ccc(O)c2[n+:21]1[H:20].Nc1nc2ccccc2[n:10]c1N>>Cc1n(C)c2c(O)ccc(O)c2[n:21]1.Nc1nc2ccccc2[n+:10]([H:20])c1N 10=20;20,21=21",
"O=S(=O)(c1cccc(Cl)c1)[NH-:10].Oc1ccccc1-c1ccccc1[O:21][H:20]>>O=S(=O)(c1cccc(Cl)c1)[NH:10][H:20].Oc1ccccc1-c1ccccc1[O-:21] 10=20;20,21=21",
"CC[NH+](CC)CC[NH2:10].c1ccc(-c2cc[n+:21]([H:20])cc2)nc1>>CC[NH+](CC)CC[NH2+:10][H:20].c1ccc(-c2cc[n:21]cc2)nc1 10=20;20,21=21",
"O=C1C=C(C(=O)[O:21][H:20])OC(c2ccccc2)=C1.c1cc(/N=N/c2ccc([O-:10])cc2)ccn1>>O=C1C=C(C(=O)[O-:21])OC(c2ccccc2)=C1.c1cc(/N=N/c2ccc([O:10][H:20])cc2)ccn1 10=20;20,21=21",
"CC(C)CSCC[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CC(C)CSCC[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CC(C)[NH+:21](CC(=O)c1ccc([O-])cc1)[H:20].OCCCc1cccc[n:10]1>>CC(C)[NH:21]CC(=O)c1ccc([O-])cc1.OCCCc1cccc[n+:10]1[H:20] 10=20;20,21=21",
"CC(=O)c1ccc([NH2+:21][H:20])cc1.Cc1cc(C)n(-c2cccc[n:10]2)n1>>CC(=O)c1ccc([NH2:21])cc1.Cc1cc(C)n(-c2cccc[n+:10]2[H:20])n1 10=20;20,21=21",
"CCCCCCCCCC[NH:10]c1ccccc1.c1coc(CNc2nc[n+:21]([H:20])c3nc[nH]c23)c1>>CCCCCCCCCC[NH+:10](c1ccccc1)[H:20].c1coc(CNc2nc[n:21]c3nc[nH]c23)c1 10=20;20,21=21",
